Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abnormal uterine bleeding, atypical stromal cells on EMB and ___
 
Major Surgical or Invasive Procedure:
total laparoscopic hysterectomy, bilateral salpingectomy 
(removal of uterus and fallopian tubes

Laparoscopic cystorrhaphy (sutures over muscle layer of bladder)

 
History of Present Illness:
The patient is a ___ G4 P3, who has had a long history 
of atypical stromal cells found on three different pathology 
specimens with three different surgeries.

The patient initially had abnormal uterine bleeding and had a 
cervical polyp removed in ___, which turned out to be 
a prolapsing fibroid with evidence of mixed
endometrial-endocervical type polyp with atypical stromal cells.

In ___, the patient had a hysteroscopy for the 
visualization of the endometrial cavity in a repeat assessment 
at that time and the pathology specimen at that time again 
showed mixed endometrial-endocervical type polyp with atypical 
stromal cells.

The patient had persistent bleeding and was unable to tolerate 
an endometrial biopsy, so she had another hysteroscopy and D and 
C and Mirena IUD insertion on ___, which showed 
the atypical stromal cells again.

After discussing with the Pathology Department and the GYN 
Oncology Department, the patient was offered options of 
surveillance with annual pelvic ultrasounds and endometrial 
sampling as needed versus a hysterectomy and the patient elects 
to proceed with a hysterectomy.  The discussion was made to also 
proceed with opportunistic bilateral salpingectomy.
 
Past Medical History:
Past Medical History:  Low back pain, right otitis externa and
hearing loss.

PAST OB HISTORY:  G5 P3, C-section x 3, SAB x 1, TAB x 1.

PAST SURGICAL HISTORY:
1.  C-section x 3.
2.  Open appendectomy.

GYN HISTORY:  Denies history of abnormal Pap smears with her 
last
Pap in ___ that was negative for intraepithelial
malignancy and HPV testing at that time was also negative.

 
Social History:
___
Family History:
Family history of breast cancer of her mother, diagnosed at age 
___, but otherwise no history of uterine cancer, ovarian cancer 
or cervical cancer.

 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing total laparoscopic hysterectomy, bilateral 
salpingectomy, oversew of bladder muscularis, and cystoscopy. 
Please see the operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid and toradol. 
She was complaining of some nausea which was controlled with 
zofran. Her diet was advanced without difficulty on POD1 and she 
was transitioned to PO oxycodone, ibuprofen, and acetaminophen. 
On POD1 she was complaining of dizziness which resolved 
spontaneously and she was able to ambulate on POD2. 

By post-operative day 2, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. Due to oversew of bladder muscularis 
intraoperatively, she was discharged with the foley catheter in 
place for one week post operatively and with outpatient 
follow-up scheduled.
 
Medications on Admission:
none
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Ibuprofen 400-600 mg PO Q6H:PRN Pain - Moderate 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*40 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every ___ hours Disp 
#*30 Tablet Refills:*0 
5.  Phenazopyridine 100 mg PO TID PRN bladder pain/spasm 
Duration: 3 Days 
RX *phenazopyridine 100 mg 1 tablet(s) by mouth three times per 
day Disp #*6 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
atypical stromal cells of the uterus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
*  Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Foley catheter:
You were discharged home with a Foley (bladder) catheter and 
received teaching for it prior to discharge. We will plan to 
have this removed in the office next week (see below).

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___